US08685991B2
Part C. Preparation of methyl 5-amino-3-tert-butyl-2-methoxybenzoate
Methyl 3-tert-butyl-2-methoxy-5-nitrobenzoate (10.42 g, 39.0 mmol), iron powder (325 mesh, 10.89 g, 195 mmol), ammonium chloride (3.13 g, 58.5 mmol), water (30 mL), and methanol (150 mL) were added together. The resultant mixture was then refluxed for 1 h. The mixture was then cooled to room temperature, filtered through celite, and the celite washed with methanol. The filtrate was then concentrated under vacuum and dissolved in ethyl acetate (600 mL). The resultant solution was then washed with water and brine. The organic extract was then dried, filtered and concentrated under vacuum to yield the title compound as an oil (9.25 g, 100%).

reactant | Methyl 3-tert-butyl-2-methoxy-5-nitrobenzoate | 39.0 mmol, 10.42 g | C(C)(C)(C)C=1C(=C(C(=O)OC)C=C(C1)[N+](=O)[O-])OC | C13H17NO5
reactant | ammonium chloride | 58.5 mmol, 3.13 g | [Cl-].[NH4+]
reactant | water | 30 mL | O | H2O
catalyst | iron | 195 mmol, 10.89 g | [Fe] | Fe
solvent | methanol | 150 mL | CO | CH4O
product | methyl 5-amino-3-tert-butyl-2-methoxybenzoate | 9.25 g, 100% | NC=1C=C(C(=C(C(=O)OC)C1)OC)C(C)(C)C | C13H19NO3
